US05143920
A solution of 3-butyryl-8-acetyl-4(1H)-quinolone (8.4 g) in phosphoryl chloride (30 ml) was heated at reflux for 1 hour, then poured onto ice and the product extracted into ether. Drying and evaporation gave crude 3-butyryl-4-chloro-8-acetylquinoline as a dark solid, which was used without further purification.

reactant | 3-butyryl-8-acetyl-4(1H)-quinolone | 8.4 g | C(CCC)(=O)C1=CNC2=C(C=CC=C2C1=O)C(C)=O | C15H15NO3
reactant | phosphoryl chloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-butyryl-4-chloro-8-acetylquinoline | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)C(C)=O | C15H14ClNO2
